US04966901
1-(2-Acetylaminoethyl)-2,5-dimethylpyrrole-3-carbonitrile
5.2 g (0.025 mol) of 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole-3-aldehyde, 1.75 g (0.025 mol) of hydroxylamine hydrochloride and 2 ml (0.025 mol) of pyridine are heated under reflux in 25 ml of toluene for 1.5 hours. After the mixture has been concentrated, the residue is taken up in water, the mixture is extracted with methylene chloride and the product is recrystallized from toluene.

reactant | 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole-3-aldehyde | 0.025 mol, 5.2 g | C(C)(=O)NCCN1C(=C(C=C1C)C=O)C | C11H16N2O2
reactant | hydroxylamine hydrochloride | 0.025 mol, 1.75 g | Cl.NO
reactant | pyridine | 0.025 mol, 2 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Acetylaminoethyl)-2,5-dimethylpyrrole-3-carbonitrile | C(C)(=O)NCCN1C(=C(C=C1C)C#N)C | C11H15N3O
